US07153878B2
(4-{2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-propoxy}-2-methyl-phenyl)-acetic acid
(4-{2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-propoxy}-2-methyl-phenyl)-acetic acid methyl ester (0.065 g, 0.1367 mmol), lithium hydroxide (0.020 g, 0.8333 mmol) and 3:2:1 tetrahydrofuran:methanol:water (15 mL) is stirred at 60 deg C. 1 hr. The mixture is cooled on ice/water and diluted with 0.2 N aqueous hydrochloric acid. The product is extracted to ethyl acetate (2×50 mL), the extracts combined, dried over anhydrous magnesium sulfate, filtered and concentrated to afford the title compound as a white solid, 55 mg, 87%. MS M++1 462. The structure is confirmed by 1H NMR spectroscopy.

reactant | (4-{2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-propoxy}-2-methyl-phenyl)-acetic acid methyl ester | 0.1367 mmol, 0.065 g | COC(CC1=C(C=C(C=C1)OCC(C)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C(C)C)C)=O | C26H28F3NO4
reactant | lithium hydroxide | 0.8333 mmol, 0.020 g | [OH-].[Li+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | methanol | CO | CH4O
solvent | hydrochloric acid | 0.2 N | Cl | ClH
solvent | water | 15 mL | O | H2O
product | (4-{2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-propoxy}-2-methyl-phenyl)-acetic acid | C(C)(C)C=1N=C(OC1C(COC1=CC(=C(C=C1)CC(=O)O)C)C)C1=CC=C(C=C1)C(F)(F)F | C25H26F3NO4
